US07238716B2
To a mixture of 2-[5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile (0.66 g), tetrahydrofuran (1 mL) and ethanol (5 mL) was added a 2N aqueous sodium hydroxide solution (5 mL) and the mixture was stirred with heating under reflux for 8 hrs. 1N Hydrochloric acid (10 mL) and water were added to the reaction mixture, and the precipitated solid was collected by filtration and dried with air to give crystals (0.67 g, 97%) of 2-[5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid. Recrystallization from tetrahydrofuran-hexane gave pale-brown prism crystals. melting point: 139-140° C.

reactant | 2-[5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetonitrile | 0.66 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C=C(C=NC2)CC#N)C=C1 | C25H21N3O3
reactant | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 2N, 5 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 1N, 10 mL | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[5-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-3-pyridyl]acetic acid | 0.67 g, 97% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC=2C=C(C=NC2)CC(=O)O)C=C1 | C25H22N2O5
